US08183380B2
rac-N-[2-(5-Fluoro-indan-1-ylamino)-quinolin-6-yl]-2-(4-isopropyl-piperazin-1-yl)-acetamide
The title compound was prepared in accordance with the general method 14 described in example 119 from rac-N2-(5-fluoro-indan-1-yl)-quinoline-2,6-diamine and (4-isopropyl-piperazin-1-yl)-acetic acid (CAS no: 95470-68-1); MS: m/e=462.5 (M+H+).

reactant | rac-N2-(5-fluoro-indan-1-yl)-quinoline-2,6-diamine | FC=1C=C2CCC(C2=CC1)NC1=NC2=CC=C(C=C2C=C1)N | C18H16FN3
reactant | (4-isopropyl-piperazin-1-yl)-acetic acid | C(C)(C)N1CCN(CC1)CC(=O)O | C9H18N2O2
product | rac-N-[2-(5-Fluoro-indan-1-ylamino)-quinolin-6-yl]-2-(4-isopropyl-piperazin-1-yl)-acetamide | FC=1C=C2CCC(C2=CC1)NC1=NC2=CC=C(C=C2C=C1)NC(CN1CCN(CC1)C(C)C)=O | C27H32FN5O
